US03992392
PREPARATION OF TETRAHYDROCARBAZOLE
N-phenyl-5-cyanoindole from N-chloro-N-phenyl-4-cyanoaniline and methylthioacetaldehyde;

reactant | N-phenyl-5-cyanoindole | C1(=CC=CC=C1)N1C=CC2=CC(=CC=C12)C#N | C15H10N2
reactant | N-chloro-N-phenyl-4-cyanoaniline | ClN(C1=CC=C(C=C1)C#N)C1=CC=CC=C1 | C13H9ClN2
reactant | methylthioacetaldehyde | CCC=S | C3H6S
product | TETRAHYDROCARBAZOLE | C1CCCC=2C3=CC=CC=C3NC12 | C12H13N
